US08097637B2
Step 2: (1,4-Dioxa-spiro[4.5]dec-8-yl)-acetic acid ethyl ester
(1,4-Dioxa-spiro[4.5]dec-8-ylidene)-acetic acid ethyl ester (1.10 g, 4.86 mmol) was dissolved in 30 ml ethyl acetate and stirred with 110 mg Pd/C 10% under hydrogen atmosphere for 4 hours. The catalyst was filtered off and the solvent evaporated. The crude product (1.08 g, 97%) [MS: m/e=229.3 (M+H+)] was obtained as a colourless liquid and used without any further purification for the next step.

reactant | (1,4-Dioxa-spiro[4.5]dec-8-ylidene)-acetic acid ethyl ester | 4.86 mmol, 1.10 g | C(C)OC(C=C1CCC2(OCCO2)CC1)=O | C12H18O4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 110 mg | [Pd] | Pd
product | (1,4-Dioxa-spiro[4.5]dec-8-yl)-acetic acid ethyl ester | 1.08 g, 97% | C(C)OC(CC1CCC2(OCCO2)CC1)=O | C12H20O4
